US07547691B2
Racemic 2-{5-Chloro-2-[3-(1-methylpiperidin-3-yl)-propylamino]-pyrimidin-4-yl}-benzo[b]thiophene-4-carboxylic acid cyclopropylamide di-hydrochloride
Using the method of 2-{5-chloro-2-[2-(1-methylpiperidin-4-yl)-ethylamino]-pyrimidin-4-yl}-benzo[b]thiophene-4-carboxylic acid cyclopropylamide di-hydrochloride, the title compound is synthesized as the di-hydrochloride salt from racemic 2-{5-chloro-2-[3-(1-methylpiperidin-3-yl)-propylamino]-pyrimidin-4-yl}-benzo[b]thiophene-4-carboxylic acid cyclopropylamide. ES+(m/z) 484 (35Cl) and 486 (37Cl) [M(free base)+H].

reactant | 2-{5-chloro-2-[2-(1-methylpiperidin-4-yl)-ethylamino]-pyrimidin-4-yl}-benzo[b]thiophene-4-carboxylic acid cyclopropylamide di-hydrochloride | Cl.Cl.C1(CC1)NC(=O)C1=CC=CC=2SC(=CC21)C2=NC(=NC=C2Cl)NCCC2CCN(CC2)C
reactant | racemic 2-{5-chloro-2-[3-(1-methylpiperidin-3-yl)-propylamino]-pyrimidin-4-yl}-benzo[b]thiophene-4-carboxylic acid cyclopropylamide | C1(CC1)NC(=O)C1=CC=CC=2SC(=CC21)C2=NC(=NC=C2Cl)NCCCC2CN(CCC2)C | C25H30ClN5OS
product | Racemic 2-{5-Chloro-2-[3-(1-methylpiperidin-3-yl)-propylamino]-pyrimidin-4-yl}-benzo[b]thiophene-4-carboxylic acid cyclopropylamide di-hydrochloride | Cl.Cl.C1(CC1)NC(=O)C1=CC=CC=2SC(=CC21)C2=NC(=NC=C2Cl)NCCCC2CN(CCC2)C | InChI=1S/C25H30ClN5OS.2ClH/c1-31-12-4-6-16(15-31)5-3-11-27-25-28-14-20(26)23(30-25)22-13-19-18(7-2-8-21(19)33-22)24(32)29-17-9-10-17;;/h2,7-8,13-14,16-17H,3-6,9-12,15H2,1H3,(H,29,32)(H,27,28,30);2*1H
